US08232403B2
Preparation of {2-[N-(cyclopentylmethyl)-N-ethylamino]-6,7-difluoroquinolin-3-yl}methanol
To a mixture of 2-[N-(cyclopentylmethyl)-N-ethylamino]-6,7-difluoroquinoline-3-carbaldehyde (0.10 g, 0.31 mmol) in ethanol (2.0 mL) is added sodium borohydride (14 mg, 0.37 mmol) and the mixture is stirred for 2 hours. After addition of sat. ammonium chloride and water, the mixture is extracted with ethyl acetate. The combined organic layer is washed with brine, dried over magnesium sulfate, filtered and concentrated to {2-[N-(cyclopentylmethyl)-N-ethylamino]-6,7-difluoroquinolin-3-yl}methanol which is used without further purification.

reactant | 2-[N-(cyclopentylmethyl)-N-ethylamino]-6,7-difluoroquinoline-3-carbaldehyde | 0.31 mmol, 0.10 g | C1(CCCC1)CN(CC)C1=NC2=CC(=C(C=C2C=C1C=O)F)F | C18H20F2N2O
reactant | sodium borohydride | 0.37 mmol, 14 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | {2-[N-(cyclopentylmethyl)-N-ethylamino]-6,7-difluoroquinolin-3-yl}methanol | C1(CCCC1)CN(CC)C1=NC2=CC(=C(C=C2C=C1CO)F)F | C18H22F2N2O
